US07956054B2
1-[6-(2-Acetylsulfamoylphenyl)pyridin-3-ylmethyl]-5-propyl-1H-pyrazole-3-carboxylic Acid
1-[6-(2-t-Butylsulfamoylphenyl)pyridin-3-ylmethyl]-5-propyl-1H-pyrazole-3-carboxylic acid (480 mg, 1.0 mmol) was dissolved in TFA (2.8 mL, 36.8 mmol) and heated at 40° C. for 3 hours. The mixture was diluted with toluene and concentrated (azeotrope×3). The residue was dissolved in DCM (5.53 mL, 86.2 mmol), then triethylamine (1.8 mL, 12.6 mmol) and acetic anhydride (992 μL, 10.5 mmol) were added. The resulting solution was stirred at room temperature for 1 hour. Additional triethylamine and acetic anhydride were added to drive the reaction. The reaction was then quenched with water (150 μL) and dried through azeotrope with toluene to yield the title compound (108 mg), which was used without further purification.

reactant | 1-[6-(2-t-Butylsulfamoylphenyl)pyridin-3-ylmethyl]-5-propyl-1H-pyrazole-3-carboxylic acid | 1.0 mmol, 480 mg | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=N1)CN1N=C(C=C1CCC)C(=O)O | C23H28N4O4S
reactant | TFA | 36.8 mmol, 2.8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 86.2 mmol, 5.53 mL | C(Cl)Cl | CH2Cl2
reactant | acetic anhydride | 10.5 mmol, 992 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 12.6 mmol, 1.8 mL | C(C)N(CC)CC | C6H15N
product | 1-[6-(2-Acetylsulfamoylphenyl)pyridin-3-ylmethyl]-5-propyl-1H-pyrazole-3-carboxylic Acid | 108 mg | C(C)(=O)NS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=N1)CN1N=C(C=C1CCC)C(=O)O | C21H22N4O5S
